US04061647
4-(3,4-Dichloro-5-sulfamoylphenyl)-3-isopropyl-2-isopropylimino-1,3-thiazolidine-4-ol-hydrochloride
was obtained in a manner analogous to the method described in Example 1 d from 6.1 g of 2,3',4'-trichloro-5'-sulfamoylacetophenone and 1,3-diisopropyl-thiourea. M.p. 171° C (decomposition).

reactant | 2,3',4'-trichloro-5'-sulfamoylacetophenone | 6.1 g | ClCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6Cl3NO3S
reactant | 1,3-diisopropyl-thiourea | C(C)(C)NC(=S)NC(C)C | C7H16N2S
product | 4-(3,4-Dichloro-5-sulfamoylphenyl)-3-isopropyl-2-isopropylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC=1C=C(C=C(C1Cl)S(N)(=O)=O)C1(N(C(SC1)=NC(C)C)C(C)C)O | InChI=1S/C15H21Cl2N3O3S2.ClH/c1-8(2)19-14-20(9(3)4)15(21,7-24-14)10-5-11(16)13(17)12(6-10)25(18,22)23;/h5-6,8-9,21H,7H2,1-4H3,(H2,18,22,23);1H
